US07687510B2
Ethyl 4-(4-chlorophenyl)-6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate
204 mg (1.0 mmol) N-[3-(trifluoromethyl)phenyl]urea, 108 mg (0.77 mmol) 4-chlorobenzaldehyde and 100 mg (0.77 mmol) ethyl 3-oxobutanoate are suspended in 2 ml of THF, and catalytic amounts of concentrated hydrochloric acid are added. The mixture is stirred at reflux for 18 hours. After cooling down to room temperature, the solvent is removed in vacuo and the residue is purified by column chromatography on silica with cyclohexane/ethyl acetate as eluent.

reactant | N-[3-(trifluoromethyl)phenyl]urea | 1.0 mmol, 204 mg | FC(C=1C=C(C=CC1)NC(=O)N)(F)F | C8H7F3N2O
reactant | 4-chlorobenzaldehyde | 0.77 mmol, 108 mg | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | ethyl 3-oxobutanoate | 0.77 mmol, 100 mg | O=C(CC(=O)OCC)C | C6H10O3
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | Ethyl 4-(4-chlorophenyl)-6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydro-5-pyrimidinecarboxylate | ClC1=CC=C(C=C1)C1NC(N(C(=C1C(=O)OCC)C)C1=CC(=CC=C1)C(F)(F)F)=O | C21H18ClF3N2O3
